Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Stroke
 
Major Surgical or Invasive Procedure:
s/p tPA (competed at ___ ___ at ___ 
TEE ___
 
History of Present Illness:
Neurology at bedside for evaluation after code stroke activation
within: 1 minutes
Time (and date) the patient was last known well: 05:40
___ Stroke Scale Score: 5 
t-PA given: No Reason t-PA was not given or considered:  Given
prior to arrival 
I was present during the CT scanning and reviewed the images
instantly within 20 minutes of their completion.

___ Stroke Scale score was: 5
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 1
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 1
9. Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 1

HPI:
___ is a ___ man without significant PMH
who presents as a transfer s/p tPA for left sided weakness. The
patient was last seen well around 0540 this morning. When the
patient's step-son returned to the kitchen at 0620 he found the
patient on the ground saying he was looking for his glasses;
however, the patient was holding his glasses in his hand. He 
made
some other out of context statements (using real words and
grammar) and was noticed to be slurring his words. The patient's
family then noticed his left facial droop and called ___. The
patient was taken to ___ where a code stroke was called
via tele-stroke. tPA was given at 0832 (completed at 0932). The
patient was then sent to ___ for further care. 

The patient does report that he had a 20min episode last ___
where he felt "dizzy" which he described as "like my legs didn't
want to work" there was no laterality to the episode. He does
report a very mild headache upon arrival to our ED. The patient
denies any current deficits on interview 

On neuro ROS: the pt denies loss of vision, blurred vision,
diplopia, oscilopsia, dysphagia, drop attacks, vertigo, tinnitus
or hearing difficulty. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness,
paresthesias. No bowel or bladder incontinence or retention.
Denies difficulty with gait. 

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
GERD
Daily alcohol use
 
Social History:
___
Family History:
Mother had a stroke at ___. no known history of clotting/bleeding 
disorders. 
 
Physical Exam:
GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress, well
nourished, conversing/interacting appropriately 
HEENT: Neck is supple, non-tender, and no lymph nodes were
palpated. Sclera are non-injected. Mucous membranes are moist. 
CV: Heart rate is regular, with normal S1, S2, no murmur, no rub
or gallop. 
Lungs: Clear to auscultation bilaterally without wheezing or
crackles. 
Abdomen: active bowel sounds, soft, non-tender, no organomegaly.
No scars. 
Extremities: No evidence of deformities. No contractures. Good
and symmetric radial and pedal pulses. No Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Awake and alert. Oriented to person place and
time. Able to relate history without difficulty. Attentive to
conversation. Language is fluent and appropriate with intact
comprehension, reading, repetition and naming of both high and
low frequency objects. Normal prosody. There were no paraphasic
errors. Speech is fluent. Able to follow both midline
and appendicular commands. No left/right confusion or finger
agnosia.

Cranial Nerves:
I: not tested
II: visual fields full to confrontation.
III-IV-VI: pupils equally round, reactive to light. Normal
conjugated, extra-ocular eye movements in all directions of 
gaze.
V: Symmetric perception of LT in V1-3 
VII: mild L ptosis and facial droop at rest. decreased speed 
of activation of the lower face. symmetric excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug and head rotation ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. Pronation without
drift on the left. 
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___-  ___ 5   5    5- 5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: decreased sensation to pin in the LLE (80%). Extinction
to DSS on the left which is improved since admission. 

Coordination: Finger to nose, heel to shin and RAM mildly clumsy
on the left - not out of proportion to subtle weakness. 

Gait: steady, narrow-based
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~

 
Pertinent Results:
Stroke labs: A1c 5.8, LDL 172, TSH 1.6

CTA head/neck ___
1. Although there is suboptimal bolus due to IV site 
extravasation, there is non opacification at the level of the 
right MCA bifurcation and poor filling of the M1 segment likely 
represent thrombosis. 
2. Minimal filling of distal-most right MCA distribution 
branches is 
presumably from collateral in-flow. 
3. No evidence of intracranial hemorrhage, edema, or mass 
effect. 
4. The principal vessels of the neck are unremarkable. 

MRI Head w/wo ___
1. Large core infarction centered in the right insula in the 
right MCA distribution. 
2. Surrounding ischemic penumbra in the anterior right frontal 
and right parieto-occipital lobes, as described above. 
3. No evidence of hemorrhagic transformation or new area of 
infarction. 
4. Minimal local mass effect, with no midline shift. 

ECHO ___
The left atrial volume index is moderately increased. No left 
atrial mass/thrombus seen (best excluded by transesophageal 
echocardiography). No atrial septal defect or patent foramen 
ovale is seen by 2D, color Doppler or saline contrast with 
maneuvers. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF 55-60%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
Moderate [2+] tricuspid regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  

CT Head w/o ___
1. Study is mildly degraded by motion. 
2. Evolving right MCA distribution infarct as described. 
3. No evidence of acute intracranial hemorrhage. 
4. Paranasal sinus disease as described. 

MRI/MRA Brain, MRA Neck ___ 
1. Please note study is degraded by motion, especially on MR 
angiography. 
2. Evolving right MCA distribution infarct as described. 
3. Suggested area of small right temporal microhemorrhage, which 
was not well evaluated on prior brain MRI due to motion 
degradation and not clearly visualized on most recent prior head 
CT. 
4. Redemonstration of right occlusion of right mid M1 with no 
definite flow noted within right M2 or distal vessels.  Question 
presence of thrombus within right M2 and M3 branch vessels. 
5. 1.5 mm left carotid siphon tiny aneurysm versus infundibulum. 

6.  Paranasal sinus disease as described. 
7. Limited imaging of bilateral carotid bifurcations and left 
vertebral artery origin secondary to motion degradation.  Within 
limits of study, no evidence of cervical MRA dissection or 
occlusion. 

TEE ___
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium or left atrial appendage. No atrial septal 
defect or patent foramen ovale is seen by 2D, color Doppler or 
saline contrast with maneuvers. Overall left ventricular 
systolic function is normal (LVEF>55%). with normal free wall 
contractility. There are three aortic valve leaflets. No masses 
or vegetations are seen on the aortic valve. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No mass or vegetation is seen on the mitral 
valve. Trivial mitral regurgitation is seen. There is no 
pericardial effusion. 

IMPRESSION: No intracardiac source of embolism identified. No 
PFO/ASD by saline contrast with maneuvers. Normal biventricular 
systolic function.

___ dopplers ___
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

MRV pelvis ___
1. No evidence of a thrombus in the infrarenal IVC or pelvic 
veins. 
2. Diverticulosis without diverticulitis. 

 
Brief Hospital Course:
___ is a ___ man with daily drinking and 
cigar history who presents as a transfer from ___ s/p 
tPA (completed at ___ ___ for left sided weakness. On 
admission, his NIHSS was 5 for left facial droop, mild left 
sided weakness/sensory loss, dysarthria and extinction. His exam 
was initially stable and CTA, although poor quality because the 
IV infiltrated, showed no obvious evidence of thrombus. Later in 
the afternoon, the patient was found to have curling of his left 
fingers, clumsiness of his left fine finger movements, and 
increased dysarthria. His NIHSS was 6. MRI brain/MR perfusion 
obtained at 15:33 showed a core infarct in the right insula and 
part of the right frontal lobe including the operculum. There 
was evidence of penumbra in the right anterior frontal lobe and 
the posterior parietal lobe. Given that it was more than 10 
hours from last seen normal, NIHSS of only six, and lack of 
significant area of mismatch on MRI perfusion, it was decided 
that the risk of mechanical intervention outweighed the 
potential benefit of IA clot retrieval so IA therapy was 
deferred. Subsequent MRI demonstrated expansion of the infarct 
to include the penumbral region.

The etiology of his stroke remains unknown. He underwent TTE 
which had poor windows and subsequently TEE showed PFO. He 
underwent lower extremity ultrasound dopplers and MRV pelvis 
which showed no evidence of venous clot. Stroke risk factors 
were evaluated and A1c was 5.8, LDL 172, TSH 1.6. Started on 
aspirin 81mg and atorvastatin 40mg. He had labs ordered for 
hypercoaguable state and was fitted with holter monitor on 
discharge. ___ recommended ___ rehab.

Transitional issues:
[ ] Please follow up results of cardiac monitoring to assess for 
cardiac etiology of right MCA infarct.

[ ] Please follow up result of hypercoaguable workup and treat 
as needed.

[ ] Continue to encourage cigar smoking cessation.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No  
4. LDL documented? (x) Yes (LDL = 172) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - atorva 80mg () No [if 
LDL >100, reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - aspirin 81mg () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. omeprazole 20 mg oral DAILY 

 
Discharge Medications:
1. omeprazole 20 mg oral DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Nicotine Patch 21 mg TD DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right MCA infarct
Hyperlipidemia
Patent foramen ovale
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left-sided weakness and 
sensory loss resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High cholesterol  
Tobacco smoking
 
We are changing your medications as follows:  
starting aspirin 81mg
starting atorvastatin 80mg
starting nicotine patch for smoking cessation

We also performed testing of your heart to see if you have any 
sources of stroke coming from a heart problem. You did have an 
abnormal connection between the two sides of your heart, which 
can increase the risk of a venous blood clot traveling to your 
brain and causing a stroke, so we performed imaging of your leg 
and pelvic veins, which did not show any clots. The connection, 
or PFO, is common in many people and may not be clinically 
significant.
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___